US09278981B2
Stage 204.2 5-Bromo-6-chloro-N-(3-chloro-4-(trifluoromethoxy)phenyl)nicotinamide
The title compound was prepared in an analogous fashion to that described in Stage 185.2 using 5-bromo-6-chloro-nicotinic acid and 3-chloro-4-(trifluoromethoxy)aniline to afford an off-white crystalline solid. HPLC (Condition 4) tR=6.72 min, UPLC-MS (Condition 3) tR=1.34 min, m/z=429.0 [M−H]−.

reactant | 5-bromo-6-chloro-nicotinic acid | BrC=1C(=NC=C(C(=O)O)C1)Cl | C6H3BrClNO2
reactant | 3-chloro-4-(trifluoromethoxy)aniline | ClC=1C=C(N)C=CC1OC(F)(F)F | C7H5ClF3NO
product | 5-Bromo-6-chloro-N-(3-chloro-4-(trifluoromethoxy)phenyl)nicotinamide | BrC=1C(=NC=C(C(=O)NC2=CC(=C(C=C2)OC(F)(F)F)Cl)C1)Cl | C13H6BrCl2F3N2O2
